Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
procainamide / propranolol
 
Attending: ___.
 
Chief Complaint:
___ episodes 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old F w/ a fib, mechanical AVR, 
mechanical MVR, hx of MI, prior CVA, and possible TIAs 
presenting with spells ___. 

She has had these spells since she was in her ___ years, 
before her valve replacements. They would only occur "now and 
then" but she would get an overwhelming sense ___ and 
dread. This was not associated with any weakness, numbness, 
tingling, chills, sweats, chest pain, dyspnea, or confusion. 
They would usually resolve on their on own. However, for the 
past week they have been occurring daily and yesterday she had 
three in a row while with family. There were multiple nurses in 
the family there who told she should be evaluated, as they 
checked her vitals and her heart rates were any where from the 
___ and her SBP was "sky high" although she is unsure what 
that means. She did not have any chest pain or shortness of 
breath during this episode. She also did not have any vision 
changes, hearing changes, weakness, numbness, or tingling. 

In the ED, vitals were within normal limits. Exam and labs were 
unremarkable. She went to an OSH ED where a head CT showed 
"There are mild periventricular white matter hypodensities which 
are nonspecific but can be seen in patients with small vessel 
ischemic changes." She was seen by Neurology who felt she should 
have seizures and tachy/brady syndrome ruled out. She was given 
her home warfarin and aspirin 81 mg. 

Upon arrival to the floor, she is accompanied by her daughter 
and husband who help to give the history. They note she is "as 
active as a ___ year old" and she would like to spend as little 
time in the hospital as possible, but want her to get better. 
She is not currently having any spells. 
 
Past Medical History:
Aortic aneurysm
A fib
AV/MV mechanical valve replacements
MI
Prior CVA/TIA
Mild cognitive impairment 

 
Social History:
___
Family History:
Sister - epilepsy since childhood
Brother - CVA 
 
Physical ___:
ADMISSION PHYSICAL EXAM 
======================== 
VS: 97.7 PO 131 / 73 70 16 94 Ra 
GENERAL: Alert and interactive older woman, in no acute 
distress.
Appears younger than stated age. 
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM. 

NECK: No cervical lymphadenopathy. No JVD. Supple. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. Grade
___ systolic ejection murmur heard throughout precordium. 
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.    
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.  
SKIN: Warm. Cap refill <2s. No rash.  
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. AOx3.  

DISCHARGE PHYSICAL EXAM 
========================
24 HR Data (last updated ___ @ 1433)
    Temp: 97.9 (Tm 98.0), BP: 124/76 (100-161/59-94), HR: 82
(64-96), RR: 17 (___), O2 sat: 94% (94-97), O2 delivery: ra  
GENERAL: Alert and interactive older woman, in no acute 
distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM. 

NECK: No cervical lymphadenopathy. No JVD. Supple. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. Grade 
___ systolic ejection murmur heard throughout precordium. 
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.    
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.  
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.  
SKIN: Warm. Cap refill <2s. No rash.  
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal 
sensation. AOx3.   
 
Pertinent Results:
===============
Admission labs
===============
___ 02:20AM BLOOD WBC-6.8 RBC-3.84* Hgb-11.8 Hct-34.8 
MCV-91 MCH-30.7 MCHC-33.9 RDW-13.3 RDWSD-44.0 Plt ___
___ 02:20AM BLOOD Neuts-62.0 ___ Monos-8.4 Eos-3.4 
Baso-0.4 Im ___ AbsNeut-4.19 AbsLymp-1.72 AbsMono-0.57 
AbsEos-0.23 AbsBaso-0.03
___ 02:20AM BLOOD ___ PTT-45.7* ___
___ 02:20AM BLOOD Glucose-96 UreaN-16 Creat-0.7 Na-142 
K-3.6 Cl-105 HCO3-21* AnGap-16
___ 02:20AM BLOOD ALT-20 AST-35 AlkPhos-38 TotBili-0.6
___ 02:20AM BLOOD cTropnT-0.02*
___ 10:53AM BLOOD cTropnT-<0.01
___ 02:20AM BLOOD Lipase-54
___ 02:20AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

===============
Discharge labs
===============
___ 07:10AM BLOOD WBC-7.0 RBC-3.76* Hgb-11.8 Hct-35.6 
MCV-95 MCH-31.4 MCHC-33.1 RDW-13.7 RDWSD-46.8* Plt ___
___ 07:10AM BLOOD ___ PTT-50.4* ___
___ 07:48AM BLOOD ___
___ 02:20AM BLOOD ___ PTT-45.7* ___
___ 07:10AM BLOOD Glucose-92 UreaN-20 Creat-0.7 Na-146 
K-4.3 Cl-111* HCO3-24 AnGap-11

===============
Studies
===============
EEG:   
IMPRESSION: This telemetry captured no pushbutton activations. 
It showed a 
normal background in wakefulness and in sleep. There were no 
focal 
abnormalities or epileptiform features. 

===============
Microbiology 
===============
___ Urine Culture = No growth 

 
Brief Hospital Course:
Outpatient Providers: ASSESSMENT/PLAN 
=================
Ms. ___ is a ___ year old F w/ a fib, mechanical AVR, 
mechanical MVR, hx of MI, prior L temporal CVA, and possible 
TIAs presenting with spells ___. She was monitored on EEG 
without obvious seizure activity. 

TRANSITIONAL ISSUES:
====================
[ ] Given that her history of episodes ___ could be 
consistent with seizure activity, and that she presentd with a 
transient increased frequency of these symptoms (7 episodes in 
short period), may consider trial of anticonvulsant therapy for 
diagnostic purposes. 

[ ] Family member concerned for heart rate alternating between 
40's and 120's during episode ___. Telemetry showed only 
a 6 beat run of NSVT, some PVCs and otherwise heart rates that 
were almost entirely between 60 and 110 in atrial fibrillation. 
If there is further concern for abnormal heart rates, a long 
term monitor could be considered. 

ADVANCED CARE PLANNING:
======================= 
#CODE STATUS: Full, confirmed
#CONTACT: Daughter, ___ ___

ACUTE ISSUES 
======================= 
# ___ episodes:
Given that she has had these episodes since she was a ___, 
more concerning for partial seizures, which may have possibly 
worsened in frequency due to a recent stroke in ___. Less 
likely TIAs, as would be unlikely to land in same vessel 
distribution. She was monitored on cvEEG which showed no obvious 
seizure activity. Migraine also on ddx, but the cluster of seven 
episodes prior to presentation makes this less likely. Telemetry 
showed atrial fibrillation with PVCs without significant 
bradycardia. She had a brief run of NSVT that was asymptomatic. 
Neurology consulted who recommended that she meet with her 
outpatient neurologist to discuss whether initiate a trial of 
anticonvulsant therapy for diagnostic purposes. 

# Concern for tachy-brady syndrome?:
Pt's family members noted HRs from ___ during episodes of 
___. Metoprolol held and then restarted on discharge. 
Monitored on telemetry which showed a 6 beat run of asymptomatic 
NSVT, some PVCs and otherwise no significant findings besides 
PVCs. Discussed with patient's cardiologist, who will set 
patient up with home event monitor.

# Elevated troponin:
Mild elevation to 0.02, which is not consistent with cardiac 
ischemia. Resolved and EKG without changes. 

CHRONIC ISSUES 
======================= 
# A fib
# MVR, mechanical
# AVR, mechanical 
Held home metoprolol as above. Continued home warfarin for goal 
INR 2.5-3.5. INR increased to 6's after she received two doses 
approximately 14 hours apart. Warfarin held on ___ and ___ 
and she will test on home monitor again on ___ and report to 
her ___ clinic. 

# Hx of CVA
Continue home aspirin, statin, fish oil. Held fenofibrate given 
non-formulary but restarted on discharge.

# GERD: Continued home famotidine, magic mouthwash

# HTN: Continued home lisinopril 20 mg PO daily 

# Nutrition: Continued home MVI, vitamin D

# Reactive airway disease: Held home Symbicort while inpatient 
as she typically only uses in ___ anyway 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 12.5 mg PO DAILY 
2. fenofibrate 21.5 mg oral DAILY 
3. Warfarin 2.5 mg PO 1X/WEEK (WE) 
4. Warfarin 5 mg PO 6X/WEEK (___) 
5. Aspirin 81 mg PO DAILY 
6. Rosuvastatin Calcium 10 mg PO QPM 
7. Lisinopril 20 mg PO DAILY 
8. calcium-magnesium-zinc 333-133-5 mg oral DAILY 
9. Fish Oil (Omega 3) 1000 mg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. Vitamin D 1000 UNIT PO DAILY 
12. Lotemax (loteprednol etabonate) 0.5 % ophthalmic (eye) 
DAILY:PRN eye irritation 
13. Maalox/Diphenhydramine/Lidocaine 15 mL PO TID:PRN GERD 
14. Famotidine 20 mg PO DAILY 
15. Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation DAILY:PRN dyspnea 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  calcium-magnesium-zinc 333-133-5 mg oral DAILY  
3.  Famotidine 20 mg PO DAILY  
4.  Fenofibrate 21.5 mg oral DAILY  
5.  Fish Oil (Omega 3) 1000 mg PO DAILY  
6.  Lisinopril 20 mg PO DAILY  
7.  Lotemax (loteprednol etabonate) 0.5 % ophthalmic (eye) 
DAILY:PRN eye irritation  
8.  Maalox/Diphenhydramine/Lidocaine 15 mL PO TID:PRN GERD  
9.  Metoprolol Succinate XL 12.5 mg PO DAILY  
10.  Multivitamins 1 TAB PO DAILY  
11.  Rosuvastatin Calcium 10 mg PO QPM  
12.  Symbicort (budesonide-formoterol) 80-4.5 mcg/actuation 
inhalation DAILY:PRN dyspnea  
13.  Vitamin D 1000 UNIT PO DAILY  
14.  Warfarin 5 mg PO 6X/WEEK (___)  
15.  Warfarin 2.5 mg PO 1X/WEEK (WE)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ Episodes 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
===================================
- You were admitted because you had episodes ___ that 
were concerning.    

What happened while I was in the hospital?  
==========================================
- You were monitored on brain electrodes called an EEG that 
monitored for seizures. This did not show any clear evidence of 
seizure. 

- You were monitored on the heart monitor for any abnormal heart 
rates or rhythms which showed some scattered abnormal heart 
beats, but nothing that would cause significant symptoms. 

What should I do after leaving the hospital?  
===========================================
- Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team  
 
Followup Instructions:
___